US06048824
Example P2: 3-(2-Chloropyrid-5-yl-methyl)-1-methyl-pyrrolid-2-one
Under an argon atmosphere at a temperature of from -78° C. to -60° C., 150 ml of a 1.5 molar solution of lithium diisopropylamide (LDA) in cyclohexane are added dropwise in the course of one hour to 20 g of N-methylpyrrolid-2-one in 50 ml of tetrahydrofuran (THF) and the reaction mixture is stirred at the same temperature for a further one hour. Then, at from -78° C. to -60° C., 25.0 g of 2chloro-5-(chloromethyl)-pyridine in 40 ml of THF are added, and the mixture is stirred for a further 6 hours at that temperature and then for a further 6 hours at 0° C. 15 ml of methanol are added and the reaction mixture is then poured onto a mixture of ice/water and extracted with ethyl acetate, and the organic phase is separated off. The ethyl acetate phase is dried over magnesium sulfate and concentrated to dryness by evaporation in vacuo. The residue is purified on silica gel using ethyl acetate/hexane (7:1) as eluant. The title compound (compound 1.4) is obtained in the form of a colourless oil.

reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | N-methylpyrrolid-2-one | CN1C(CCC1)=O | C5H9NO
reactant | 2chloro-5-(chloromethyl)-pyridine | 25.0 g | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
reactant | methanol | 15 ml | CO | CH4O
solvent | cyclohexane | C1CCCCC1 | C6H12
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | THF | 40 ml | O1CCCC1 | C4H8O
product | 3-(2-Chloropyrid-5-yl-methyl)-1-methyl-pyrrolid-2-one | ClC1=NC=C(C=C1)CC1C(N(CC1)C)=O | C11H13ClN2O
